US08975415B2
To a solution of N-{[6-bromo-4-(1,1-difluoro-2-hydroxyethyl)-4H-spiro[chromene-3,1′-cyclopropan]-4-yl]carbamothioyl}benzamide (340 mg, 0.684 mmol) in MeOH (1.7 mL) was added methylamine (9.8M MeOH solution, 698 μL, 6.84 mmol). The mixture was stirred for 3 hours at ambient temperature. The mixture was concentrated azeotropically with toluene 3 times to give crude 1-[6-bromo-4-(1,1-difluoro-2-hydroxyethyl)-4H-spiro[chromene-3,1′-cyclopropan]-4-yl]thiourea (268 mg).

reactant | N-{[6-bromo-4-(1,1-difluoro-2-hydroxyethyl)-4H-spiro[chromene-3,1′-cyclopropan]-4-yl]carbamothioyl}benzamide | 0.684 mmol, 340 mg | BrC=1C=C2C(C3(CC3)COC2=CC1)(C(CO)(F)F)NC(=S)NC(C1=CC=CC=C1)=O | C21H19BrF2N2O3S
reactant | methylamine | 6.84 mmol, 698 μL | CN | CH5N
solvent | MeOH | 1.7 mL | CO | CH4O
product | 1-[6-bromo-4-(1,1-difluoro-2-hydroxyethyl)-4H-spiro[chromene-3,1′-cyclopropan]-4-yl]thiourea | 268 mg | BrC=1C=C2C(C3(CC3)COC2=CC1)(C(CO)(F)F)NC(=S)N | C14H15BrF2N2O2S
